US05059597
b) 6-Benzyl-1-methyl-5,7-dioxo-octahydropyrrolo[3,4-b]pyridine
38 g (0.1 mol) of 1-methyl-pyridinium-2,3-dicarboxylic acid N-benzylimide iodide are hydrogenated over 1 g of platinum oxide in 450 ml of glycol monomethyl ether at 30° C. under 70 bar until the uptake of hydrogen has ended (51 hours). The catalyst is then filtered off, the filtrate is concentrated, the residue is taken up in 300 ml of chloroform and the solution is washed 2× with 300 ml of 10% strength sodium carbonate solution each time and with 300 ml of water. After drying over sodium sulphate, it is concentrated. 27 g of an oily residue remain.

reactant | 1-methyl-pyridinium-2,3-dicarboxylic acid N-benzylimide iodide | 0.1 mol, 38 g | [I-].C(C1=CC=CC=C1)N=C(O)C1=[N+](C=CC=C1C(=O)O)C
reactant | hydrogen | [H][H] | H2
solvent | glycol monomethyl ether | 450 ml | COCCO | C3H8O2
catalyst | platinum oxide | 1 g | [Pt]=O
product | 6-Benzyl-1-methyl-5,7-dioxo-octahydropyrrolo[3,4-b]pyridine | C(C1=CC=CC=C1)N1C(C2N(CCCC2C1=O)C)=O | C15H18N2O2
